US04425333
N-[(2R,4R)-[3-(S-Acetyl-3-mercaptopropanoyl)-2-(2-hydroxyphenyl)-4-thiazolidinyl]carbonyl]glycine ethyl ester
The suspension is prepared by using 1.78 g of (2R,4R)-3-(S-acetyl-3-mercaptopropanoyl)-2-(2-hydroxyphenyl)-4-thiazolidinecarboxylic acid, 0.51 g of N-methylmorpholine and 0.68 g of isobutyl chlorocarbonate. To the suspension the solution of 0.7 g of glycine ethyl ester hydrochloride and 0.51 g of N-methylmorpholine dissolved in aqueous THF is added, and treated in the same manner as Example 10 to give 1.8 g (82%) of the titled compound.

reactant | (2R,4R)-3-(S-acetyl-3-mercaptopropanoyl)-2-(2-hydroxyphenyl)-4-thiazolidinecarboxylic acid | 1.78 g | C(C)(=O)SCCC(=O)N1[C@H](SC[C@H]1C(=O)O)C1=C(C=CC=C1)O | C15H17NO5S2
reactant | N-methylmorpholine | 0.51 g | CN1CCOCC1 | C5H11NO
reactant | isobutyl chlorocarbonate | 0.68 g | C(OCC(C)C)(=O)Cl | C5H9ClO2
reactant | glycine ethyl ester hydrochloride | 0.7 g | Cl.C(C)OC(CN)=O
reactant | N-methylmorpholine | 0.51 g | CN1CCOCC1 | C5H11NO
solvent | THF | C1CCOC1 | C4H8O
product | N-[(2R,4R)-[3-(S-Acetyl-3-mercaptopropanoyl)-2-(2-hydroxyphenyl)-4-thiazolidinyl]carbonyl]glycine ethyl ester | 1.8 g, 82% | C(C)OC(CNC(=O)[C@H]1N([C@H](SC1)C1=C(C=CC=C1)O)C(CCSC(C)=O)=O)=O | C19H24N2O6S2
